US05369163
Preparation of Acid Soluble Resin (DMAEMA-Containing Resin)
Part of above emulsion polymer (200 g), diluted with 100 grams of water was charged to a 5 liter four-necked flask and heated at 70° C. To the kettle was then added 12 grams of propionic acid to solubilize the stabilizer, and a mixture of 10 grams of ferrous sulfate solution (0.1% active) and 10 grams of versene solution (1% active). Subsequently, three feeds, a monomer emulsion containing 300 grams of water, 20 grams of Triton X-100, 100 grams of butyl acrylate and 400 grams of vinyl acetate, an initiator containing 1.5 grams of TBHP and 1.5 grams of APS dissolved in 60 grams of water, and a reducing agent containing 2 grams of sodium bisulfite dissolved in 60 grams of water, were cofed into the kettle over a period of one hour while the kettle temperature was maintained at 72° C. Thirty minutes after the feeds, a chaser couple, one gram of TBHP in 5 grams of water and 0.7 grams of Formopon dissolved in 10 grams of water, were added to chase the residual monomers. The resulting latex had total solids of 45.9% and rod-shaped particles of 1 micron in diameter and 3-12 microns in length.

reactant | propionic acid | 12 grams | C(CC)(=O)O | C3H6O2
reactant | versene | 10 grams | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | butyl acrylate | 100 grams | C(C=C)(=O)OCCCC | C7H12O2
reactant | vinyl acetate | 400 grams | C(C)(=O)OC=C | C4H6O2
reactant | TBHP | 1.5 grams | CC(C)(C)OO | C4H10O2
reactant | sodium bisulfite | 2 grams | S([O-])(O)=O.[Na+]
reactant | TBHP | one gram | CC(C)(C)OO | C4H10O2
solvent | water | 100 grams | O | H2O
solvent | water | 60 grams | O | H2O
solvent | water | 60 grams | O | H2O
solvent | water | 5 grams | O | H2O
solvent | water | 10 grams | O | H2O
solvent | water | 300 grams | O | H2O
product | DMAEMA | CC(=C)C(=O)OCCN(C)C | C8H15NO2
